US05438052
α-Chloro-N-hydroxy-p-toluamide, 6.52 g (40 mmol) of N-hydroxyphthalimide (7.4 g) (40 mmol) and 0.28 g of potassium iodide are dissolved in 50 ml of absolute dimethylformamide and treated with 5.16 g (40 mmol) of N-ethyldiisopropylamine while stirring. After stirring at room temperature for 16 hours 50 ml of diethyl ether are added. The precipitated product is filtered off under suction and washed with diethyl ether. There are obtained 7.5 g of N-hydroxy-α-(phthalimidooxy)-p-toluamide as a white powder of m.p. 202° C. (dec.).

reactant | α-Chloro-N-hydroxy-p-toluamide | ClCC1=CC=C(C=C1)C(=O)NO | C8H8ClNO2
reactant | N-hydroxyphthalimide | 40 mmol, 6.52 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | N-ethyldiisopropylamine | 40 mmol, 5.16 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
catalyst | potassium iodide | 0.28 g | [I-].[K+]
product | N-hydroxy-α-(phthalimidooxy)-p-toluamide | 7.5 g | ONC(=O)C1=CC=C(C=C1)CON1C(C=2C(C1=O)=CC=CC2)=O | C16H12N2O5
